US06953792B2
O-Methylhydroxylamine hydrochloride (19.57 g, 234 mmol) was added to a solution of 1-[3,5-bis(trifluoromethyl)phenyl]ethanone (50 g, 195 mmol), and sodium acetate (31.9 g, 234 mmol) in ethanol (450 mL) and water (150 mL) and the mixture was heated under reflux for 18 hours. The mixture was cooled, water (1000 mL) was added and the mixture was extracted with diethyl ether. The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in tetrahydrofuran (100 mL), cooled to 0° C. and borane-tetrahydrofuran complex (1M in tetrahydrofuran, 730 mL) was added. The mixture was heated under reflux for 18 hours, cooled and hydrochloric acid (5M, 500 mL) was added slowly. The tetrahydrofuran was evaporated under reduced pressure and the mixture was basified with aqueous sodium hydroxide (4M). The mixture was extracted with ether and the combined organic fractions were washed with aqueous sodium hydroxide (4M) and dried (MgSO4), and ethereal hydrogen chloride (400 mL, 400 mmol) was added. The solid was collected, washing with diethyl ether, and dried in vacuo to give (RS)-α-methyl-3,5-bis(trifluoromethyl)benzenemethanamine hydrochloride as a colorless solid (48.2 g, 100%). 1H NMR (400 MHz, CD3OD) δ 8.13 (2H, s), 8.07 (1H, s), 4.73 (1H, q, J 6.8 Hz), 3.31 (2H, d, J 1.4 Hz), and 1.69 (3H, d, J 6.8 Hz). m/z (ES+) 258 (M+1). A sample was suspended in aqueous sodium hydroxide (4M) and extracted with ether. The combined organic fractions were washed with aqueous sodium hydroxide (4M), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.85 (2H, s), 7.76 (1H, s), 4.30 (1H, q, J 6.6 Hz), 1.74 (2H, br s), and 1.42 (3H, d, J 6.6 Hz). m/z (ES+) 258 (M+1).

reactant | O-Methylhydroxylamine hydrochloride | 234 mmol, 19.57 g | Cl.CON
reactant | 1-[3,5-bis(trifluoromethyl)phenyl]ethanone | 195 mmol, 50 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)=O)(F)F | C10H6F6O
reactant | sodium acetate | 234 mmol, 31.9 g | C(C)(=O)[O-].[Na+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | hydrogen chloride | 400 mmol, 400 mL | Cl | ClH
solvent | ethanol | 450 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
solvent | water | 1000 mL | O | H2O
product | (RS)-α-methyl-3,5-bis(trifluoromethyl)benzenemethanamine hydrochloride | 48.2 g, 100% | Cl.CC(N)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | InChI=1S/C10H9F6N.ClH/c1-5(17)6-2-7(9(11,12)13)4-8(3-6)10(14,15)16;/h2-5H,17H2,1H3;1H
